US07943748B2
(4) Synthesis of 2-(4-Bromo-1-methoxynaphthalen-2-yl-methyl)benzo[b]thiophene
In a nitrogen stream, triethylsilane (2.48 ml, 15.5 mmol) and a boron trifluoride-diethyl ether complex (1.08 ml, 8.54 mmol) were added dropwise to a solution of benzo[b]thiophen-2-yl-(4-bromo-1-methoxynaphthalen-2-yl)methanol (3.1 g, 7.76 mmol) in methylene chloride (60 ml) at 0° C. and the reaction mixture was stirred at room temperature for two hours, and then a 50% methanol aqueous solution (1 ml) was added and furthermore water (30 ml) was added thereto. The resulting mixture was extracted with methylene chloride, and the organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:50)] to obtain the title compound (2.38 g, 80%).

reactant | triethylsilane | 15.5 mmol, 2.48 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | benzo[b]thiophen-2-yl-(4-bromo-1-methoxynaphthalen-2-yl)methanol | 7.76 mmol, 3.1 g | S1C2=C(C=C1C(O)C1=C(C3=CC=CC=C3C(=C1)Br)OC)C=CC=C2 | C20H15BrO2S
reactant | methanol | 1 ml | CO | CH4O
reactant | water | 30 ml | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-1-methoxynaphthalen-2-yl-methyl)benzo[b]thiophene | 2.38 g, 80% | BrC1=CC(=C(C2=CC=CC=C12)OC)CC1=CC2=C(S1)C=CC=C2 | C20H15BrOS
